US09382188B2
C) ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-yl)oxy)methyl)phenyl)propanoate
To a solution of 2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-ol (1.29 g), ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (1.26 g) and tributylphosphine (2.3 mL) in toluene (30 mL) was added 1,1′-(azodicarbonyl)dipiperidine (2.32 g), and the mixture was stirred at room temperature for 50 hr. To the reaction mixture was added hexane, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.84 g) as a colorless oil.

reactant | 2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-ol | 1.29 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)OCOC | C15H15FO4
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 1.26 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | tributylphosphine | 2.3 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.32 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-yl)oxy)methyl)phenyl)propanoate | 1.84 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)OCOC | C30H33FO6
